Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Macrobid / Haldol
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
Lumbar Puncture ___

 
History of Present Illness:
___ h/o HTN and migraines presenting as a transfer from
___ with severe headache. Patient developed "worst
headache of her life" 4 days ago, which she describes as a
bilateral pressure with photo/phonophobia rated ___ severity.
She reports it is different from her typical migraines, which
last 3 days-1 week and are always left-sided and throbbing, 
occur
~1/month. She reports subjective fever and chills, diffuse neck
and body aches, cough, sore throat, and blurry vision. She also
reports nausea, vomiting, and dysuria since yesterday and has 
had
decreased PO intake. Patient denies exposure to rodents, ticks,
or mosquitoes, recent travel, recent sexual intercourse, h/o
STIs, or sick contacts; also denies rashes.  

At ___: CT head negative. Flu A/B negative. CSF: appearance
of tube 1: turbid and red, tube 4: appearance turbid and red, 
glu
123, total protein 5,154, WBC and RBC unable to result because 
it
was a grossly bloody tap. She received 2L IVF, Tylenol, toradol,
and fentanyl for headache, and headache still ___ severity.

In the ___ ED, initial vitals:  98.4 138 116/85 16 100% RA
Exam notable for: non-focal neuro exam, tachycardia 
No labs or imaging. Attempted LP but again grossly bloody.
In the ED, pt received
___ 02:31 PO Acetaminophen 1000 mg ___  
___ 02:31 IVF  NS  ___ Started  
___ 04:04 IV Metoclopramide 10 mg ___  
___ 06:27 IV Fentanyl Citrate 50 mcg ___  
___ 06:29 IVF  NS 1 mL ___ Stopped (3h ___ 

___ 07:31 IVF  NS  ___ Started  
___ 08:12 IVF  NS 1 mL ___ Stopped (___)  
___ 08:13 IVF  NS ( 1000 mL ordered) ___ Started 

___ 08:13 PO/NG Metoprolol Tartrate 25 mg ___  
___ 08:13 IV Acyclovir 550 mg ___ 

Currently, patient continues to endorse above symptoms with
headache severity still ___. She states that after the LPs 
the
headache worsens when she sits up.
 
ROS: Patient reports dry mouth. Patient also reports episodes 
she
describes as panic attacks where she develops tunnel vision,
diaphoresis, "racing" heart and "passes out." In addition, she
reports since Nexplanon implant in ___ she has had no
menstrual periods, gained 25 lbs, and had hair loss. ROS o/w
negative.
 
Past Medical History:
Asthma: well-controlled, has not needed to use inhaler recently, 
no hx or intubations
HTN
Migraines
Uterine fibroids
Enlarged spleen
Anxiety/depression
 
Social History:
___
Family History:
GM w/ ?hydrocephalus.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 98.4 130/85 112 16 96% RA  
GEN: Alert, lying in bed, no acute distress  
HEENT: Dry MM, anicteric sclerae, no conjunctival pallor  
NECK: +meningismus (sharp pain when flexing chin to neck, also 
some pain on flexing side to side), no LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-distended, mild suprapubic tenderness
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, strength and sensation grossly 
normal bilaterally, A&Ox3, no FNDs

DISCHARGE PHYSICAL EXAM
Vitals: 98.2 131/90 81 16 98% RA 
General: alert, sitting in bed, no acute distress  
HEENT: sclera anicteric, slightly dry MMM, oropharynx
erythematous with white tonsillar exudates and decreased 
swelling
R>L, uvula not deviated: overall tinsillar swelling, exudates, 
and erythema improved
Neck: improved flexion, JVP not elevated, less tender cervical
LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-distended, mild suprapubic tenderness
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, strength and sensation grossly
normal bilaterally, A&Ox3, no FNDs
 
Pertinent Results:
CBC/COAG/CHEM TRENDS
___ 01:53PM BLOOD WBC-11.2* RBC-3.35* Hgb-9.8* Hct-28.9* 
MCV-86 MCH-29.3 MCHC-33.9 RDW-14.6 RDWSD-45.3 Plt ___
___ 01:53PM BLOOD Neuts-81.7* Lymphs-10.5* Monos-7.0 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-9.11* AbsLymp-1.17* 
AbsMono-0.78 AbsEos-0.00* AbsBaso-0.02
___ 09:05AM BLOOD WBC-8.4 RBC-3.36* Hgb-9.9* Hct-30.0* 
MCV-89 MCH-29.5 MCHC-33.0 RDW-14.8 RDWSD-48.0* Plt ___
___ 07:01AM BLOOD WBC-3.7*# RBC-2.73* Hgb-8.1* Hct-24.3* 
MCV-89 MCH-29.7 MCHC-33.3 RDW-14.3 RDWSD-46.5* Plt ___
___ 07:10AM BLOOD WBC-6.8# RBC-3.97# Hgb-11.7# Hct-34.5# 
MCV-87 MCH-29.5 MCHC-33.9 RDW-13.8 RDWSD-44.0 Plt ___

___ 01:53PM BLOOD ___ PTT-29.4 ___
___ 01:18PM BLOOD ___ PTT-28.2 ___
___ 07:01AM BLOOD ___ PTT-30.5 ___
___ 07:10AM BLOOD ___ PTT-30.0 ___

___ 01:53PM BLOOD Glucose-95 UreaN-4* Creat-0.4 Na-141 
K-3.4 Cl-109* HCO3-19* AnGap-16
___ 09:05AM BLOOD Glucose-86 UreaN-5* Creat-0.4 Na-139 
K-3.6 Cl-106 HCO3-22 AnGap-15
___ 07:01AM BLOOD Glucose-65* UreaN-4* Creat-0.2* Na-138 
K-3.8 Cl-103 HCO3-17* AnGap-22*
___ 07:10AM BLOOD Glucose-88 UreaN-12 Creat-0.5 Na-139 
K-3.8 Cl-104 HCO3-25 AnGap-14

___ 01:53PM BLOOD ALT-10 AST-10 LD(LDH)-146 AlkPhos-64 
TotBili-0.4

___ 01:53PM BLOOD Albumin-3.6 Calcium-7.7* Phos-1.8* Mg-1.8
___ 09:05AM BLOOD Calcium-8.1* Phos-2.0* Mg-2.1
___ 07:01AM BLOOD Calcium-7.6* Phos-2.3*
___ 07:10AM BLOOD Calcium-8.7 Phos-4.4 Mg-2.0

URINE RESULTS:
___ 03:10PM URINE Color-Straw Appear-Clear Sp ___
___ 03:10PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

URINE CULTURE ___ (Final ___:    < 10,000 CFU/mL

OTHER PERTINENT RESULTS:
___ 01:53PM BLOOD TSH-5.0*
___ 01:53PM BLOOD Free T4-1.1
___ 01:53PM BLOOD HIV Ab-Negative
___ 01:53PM BLOOD HIV1 VL-NOT DETECT

CSF RESULTS:
___ 04:28PM CEREBROSPINAL FLUID (CSF) TNC-5 RBC-680* 
Polys-37 ___ Monos-4 Other-2
___ 04:28PM CEREBROSPINAL FLUID (CSF) TNC-19* ___ 
Polys-84 ___ Monos-3 Other-1
___ 04:28PM CEREBROSPINAL FLUID (CSF) TotProt-63* 
Glucose-68

CSF GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.
FLUID CULTURE (Preliminary):    NO GROWTH. 

IMAGING
___ ___
FINDINGS: 
There is no evidence of infarction, hemorrhage, edema, or mass.  
The
ventricles and sulci are normal in size and configuration.
There is no evidence of fracture.  The visualized portion of the 
paranasal
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized
portion of the orbits are unremarkable.
 
IMPRESSION: 
No acute intracranial process.  Specifically, no evidence of 
subarachnoid
hemorrhage.

MRV ___
IMPRESSION:
1. No evidence for dural venous sinus thrombosis.  Hypoplasia of 
the left
transverse and sigmoid sinuses is consistent with congenital 
etiology.
2. Prominent adenoids and lingual tonsils.  Prominent lymph 
nodes in the
included bilateral upper neck and mildly enlarged bilateral 
suboccipital lymph
nodes.  These findings are likely related to the reported 
pharyngitis.  Please
note that suboccipital lymph nodes are frequently associated 
with a systemic
viral illness.
3. The brain parenchyma is not assessed on this exam.
 
Brief Hospital Course:
Patient is a ___ F with h/o migraines and HTN presenting with 4 
days of severe headache with reassuring NCHCT and LP, now with 
progressive sore throat and tonsillar exudates c/f pharyngitis. 

#Sore throat: Given that patient reported progressive sore 
throat and exam showed worsening pharyngeal erythema w/ 
tonsillar exudates and R>L swelling, concern for bacterial 
(Strep) pharyngitis vs viral pharyngitis vs less concern for 
peritonsillar abscess (asymmetric R>L swelling but patient able 
to swallow fluids, no change in voice, no drooling, and HD 
stable). MRV visualized tonsils without abscess consistent with 
pharyngitis.  Strep culture was negative. We treated the patient 
with cephalexin (given penicillin allergy, prior to negative 
throat culture) as well as ibuprofen, lozenges and viscous 
lidocaine.

#Headache: Patient presented with severe headache for 4 days 
with accompanying meningismus, nausea, vomiting, 
photo/phonophobia, and viral symptoms (fatigue, myalgias, sore 
throat, cough, congestion) initially concerning for viral 
meningitis vs bacterial meningitis, HIV, or SAH. Given her 
nontoxic appearance, lack of risk factors/exposures, negative 
NCHCT, and reassuring LP, less concern for CNS infection and 
discontinued acyclovir ___. Lumbar puncture ___ had normal WBC, 
Protein, and Glucose when correcting for bloody tap (more RBC in 
Tube 1 than Tube 4 and clear supernatants so less concern for 
SAH and NCHCT negative). Given accompanying symptoms and 
progressive sore throat, more consistent with new/different type 
of migraine in setting of viral vs bacterial pharyngitis. Due to 
continued severity and positional nature of the headache we got 
an MRV, which did not show evidence of sinus venous thrombosis. 
Thus, we provided symptomatic treatment of her headache with 
tylenol, fioricet prn and oxycodone prn. Patient was initially 
on IVF and able to maintain adequate PO hydration at discharge.

#HTN: Patient has HTN and reports "panic attacks" as well as 
recent weight gain, cessation of menses, and hair loss (in the 
setting of Nexplanon insertion which is unusual), possibly 
concerning for endocrine abnormalities like ___ syndrome or 
pheo. We continued patient on home metoprolol and blood pressure 
was well controlled. Labs showed evidence of subclinical 
hypothyroidism, which should be followed as an outpatient.

TRANSITIONAL ISSUES
- Patient had evidence of subclinical hypothyroidism (TSH 5, 
free T4 1.1). It will be important for PCP to follow thyroid 
hormone levels as an outpatient and monitor for symptoms.
- Consider referral to neurology vs headache center if headaches 
persist or are refractory to migraine preventive therapies
- If weight gain, hypertension, and absence of menses persists 
would consider additional endocrine evaluation, including 
consideration of evaluation for ___ syndrome. 
- Had right greater than left tonsillar swelling but overall 
well appearing, improving throat pain, no drooling, fevers, 
leukocytosis, or other symptoms to suggest peritonsillar 
abscess. She was counseled about warning signs for peritonsillar 
abscess. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 25 mg PO QHS 
2. Citalopram 25 mg PO DAILY 
3. Metoprolol Tartrate 25 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache 
Do not exceed 6 tablets/day 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg 1 tablet(s) 
by mouth q8 Disp #*10 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q8H Duration: 6 Doses 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*6 Tablet Refills:*0 
3.  Lidocaine Viscous 2% 15 mL PO TID:PRN Sore throat 
RX *lidocaine HCl [Lidocaine Viscous] 2 % 15 mL three times a 
day Refills:*0 
4.  Amitriptyline 25 mg PO QHS  
5.  Citalopram 25 mg PO DAILY  
6.  Metoprolol Tartrate 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache
Sore Throat
Hypertension
Tachycardia
viral pharyngitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ due to severe headache. Imaging of 
your head and a lumbar puncture showed that you were not 
bleeding in your brain and that you were unlikely to have an 
infection in your brain. We also got imaging of the veins in 
your brain and there was no evidence of any clots.

You also reported symptoms including sore throat, congestion, 
and muscle aches. We tested you for the bacteria that causes 
strep throat which was negative, so we discontinued the 
antibiotics that treat that infection. We also managed your pain 
and gave you intravenous fluids to keep you hydrated. You likely 
had a bacterial/viral infection that led to a severe and new 
type of headache as well as your sore throat and other symptoms.

Your lab tests showed that you have subclinical hypothyroidism, 
which means that you have minor abnormalities in your thyroid 
hormone levels and do not have any symptoms. It is important to 
follow up with your PCP regarding your thyroid hormones.

It will be important for you to follow up with your PCP in the 
next few days to make sure that your symptoms resolved. We have 
also included information about transitioning to a PCP at ___ 
and the Headache Clinic here.

It was a pleasure to care for you!
Your ___ Team
 
Followup Instructions:
___